US06136831
The procedure of Example 9 was repeated using 1-(6-fluorobenzothiazol-2-yl)-4,4-difluorobutane-1,3-dione and 4-sulfamoylphenylhydrazine hydrochloride as the starting materials to obtain 4-[5-(6-fluorobenzothiazol-2-yl)-3-difluoromethyl-1H-pyrazol-1-yl]benzenesulfonamide (yield, 57%). NMR(DMSO-d6) δ:7.22 (1H, t, J=54.1 Hz), 7.39-7.47 (1H, m), 7.53 (1H, s), 7.56 (2H, brs), 7.75-7.80 (2H, m), 7.93-8.00 (3H, m), 8.09-8.13 (1H, m); mp 255° C. (ethanol-water)

reactant | 1-(6-fluorobenzothiazol-2-yl)-4,4-difluorobutane-1,3-dione | FC1=CC2=C(N=C(S2)C(CC(C(F)F)=O)=O)C=C1 | C11H6F3NO2S
reactant | 4-sulfamoylphenylhydrazine hydrochloride | Cl.S(N)(=O)(=O)C1=CC=C(C=C1)NN
product | 4-[5-(6-fluorobenzothiazol-2-yl)-3-difluoromethyl-1H-pyrazol-1-yl]benzenesulfonamide | 57% | FC1=CC2=C(N=C(S2)C2=CC(=NN2C2=CC=C(C=C2)S(=O)(=O)N)C(F)F)C=C1 | C17H11F3N4O2S2
